US04178380
6-Methyl-4-oxo-4H-1-benzopyran-2-carboxylic acid (Niviere, et al., 1965) was hydrogenated over a palladium-on-carbon catalyst to give 3,4-dihydro-6-methyl-2H-1-benzopyran-2-carboxylic acid. This acid was converted to the acid chloride with thionyl chloride and the acid chloride was converted to 9, obtained as white plates, mp: 67°-67.5° C., by treatment with 2-propenamine, all by the procedures described in Example 1.

reactant | 6-Methyl-4-oxo-4H-1-benzopyran-2-carboxylic acid | CC=1C=CC2=C(C(C=C(O2)C(=O)O)=O)C1 | C11H8O4
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3,4-dihydro-6-methyl-2H-1-benzopyran-2-carboxylic acid | CC=1C=CC2=C(CCC(O2)C(=O)O)C1 | C11H12O3
